US05177087
1-Acetyl-4-[2,4-di[(4-benzyl)piperidino]benzoyl]piperidine
A mixture consisting of 2.67 g of 1-acetyl-4-(2,4-difluorobenzoyl)piperidine and 8.8 ml of 4-benzylpiperidine was stirred at 100° C. for 24 hours and the reaction mixture was then worked up in the same manner as Example 2 to give 4.1 g of the title compound as oil.

reactant | 1-acetyl-4-(2,4-difluorobenzoyl)piperidine | 2.67 g | C(C)(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)F)F)=O | C14H15F2NO2
reactant | 4-benzylpiperidine | 8.8 ml | C(C1=CC=CC=C1)C1CCNCC1 | C12H17N
product | 1-Acetyl-4-[2,4-di[(4-benzyl)piperidino]benzoyl]piperidine | 4.1 g | C(C)(=O)N1CCC(CC1)C(C1=C(C=C(C=C1)N1CCC(CC1)CC1=CC=CC=C1)N1CCC(CC1)CC1=CC=CC=C1)=O | C38H47N3O2
